US05000775
Ethyl 2-[(1-methylethyl)phenylamino]-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 15, 2.59 g (0.019 mol) of N-isopropyl aniline was reacted neat with 2.32 g (0.0095 mol) of ethyl 2-chloro-4-trifluromethyl-5-oxazolecarboxylate at 140°-150° C. for 4 hours. The product mixture was slurried in ethyl ether, washed with 25% sulfuric acid and water, dried and concentrated. The residue was distilled and the distillate was recrystallized from methylcyclohexane to yield 0.7 g of a white-powder product (m.p.=66°-68° C.) identified in Table 1.

reactant | N-isopropyl aniline | 0.019 mol, 2.59 g | C(C)(C)NC1=CC=CC=C1 | C9H13N
reactant | ethyl 2-chloro-4-trifluromethyl-5-oxazolecarboxylate | 0.0095 mol, 2.32 g | ClC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO3
solvent | ethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-[(1-methylethyl)phenylamino]-4-(trifluoromethyl)-5-oxazolecarboxylate | 0.7 g | CC(C)N(C=1OC(=C(N1)C(F)(F)F)C(=O)OCC)C1=CC=CC=C1 | C16H17F3N2O3
